US08022205B2
(3-Morpholin-4-yl-propyl)-(4-nitro-phenyl)-amine
Using 1-iodo-4-nitro-benzene (500 mg) instead of 1-bromo-3-nitro-benzene, and 3-morpholin-4-yl-propylamine (353 mg) instead of morpholine, in the same manner as Step A in Example 1-D-105, the desired compound was obtained (219 mg, 41%).

reactant | 1-iodo-4-nitro-benzene | 500 mg | IC1=CC=C(C=C1)[N+](=O)[O-] | C6H4INO2
reactant | 3-morpholin-4-yl-propylamine | 353 mg | N1(CCOCC1)CCCN | C7H16N2O
product | (3-Morpholin-4-yl-propyl)-(4-nitro-phenyl)-amine | N1(CCOCC1)CCCNC1=CC=C(C=C1)[N+](=O)[O-] | C13H19N3O3
